US05075326
146 g (2 mols) of diethylamine are added dropwise to a solution of 199 g (1 mol) of 2,4-dichloro-5-nitrothiazole in 1 l of dioxane at 20° C. to 30° C. in the course of about 2 hours. After the mixture has been left to stand overnight at room temperature, it is stirred in 8 l of icewater and the precipitate is filtered off, washed with water and dried. 216 g (91.7% of theory) of 2-diethylamino-4-chloro-5-nitrothiazole of melting point 85° C. (from cyclohexane) are obtained.

reactant | diethylamine | 2 mols, 146 g | C(C)NCC | C4H11N
reactant | 2,4-dichloro-5-nitrothiazole | 1 mol, 199 g | ClC=1SC(=C(N1)Cl)[N+](=O)[O-] | C3Cl2N2O2S
solvent | dioxane | 1 l | O1CCOCC1 | C4H8O2
product | 2-diethylamino-4-chloro-5-nitrothiazole | 216 g, 91.7% | C(C)N(C=1SC(=C(N1)Cl)[N+](=O)[O-])CC | C7H10ClN3O2S
